US06232290B1
To a solution of 4-[4-(2-cyclohexenyloxy)piperidin-1-yl]benzoic acid ethyl ester (3.82 g) in methanol (80 ml) was added 10% palladium on carbon (1.0 g), and hydrogen gas at atmosphere pressure for 5 hours. The reaction mixture was filtered, and the filtrate was concentrated by evaporation under reduced pressure to give 4-(4-cyclohexyloxypiperidin-1-yl)benzoic acid ethyl ester (2.38 g).

reactant | 4-[4-(2-cyclohexenyloxy)piperidin-1-yl]benzoic acid ethyl ester | 3.82 g | C(C)OC(C1=CC=C(C=C1)N1CCC(CC1)OC1C=CCCC1)=O | C20H27NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 80 ml | CO | CH4O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 4-(4-cyclohexyloxypiperidin-1-yl)benzoic acid ethyl ester | 2.38 g | C(C)OC(C1=CC=C(C=C1)N1CCC(CC1)OC1CCCCC1)=O | C20H29NO3
